US07589042B2
Synthesis of (dichloro)(pentamethylcyclopentadienyl)(2-phenylphenoxy)titanium(IV)
After 0.86 g of 2-phenylphenol (5.07 mmol) (Aldrich, 99%) were dissolved in 40 mL of toluene, 2.4 mL of butyl lithium (2.5 M hexane solution) were slowly dropped thereonto at 0° C. After the reaction was conducted at normal temperature for 12 hours, a solution in which (trichloro)(pentamethylcyclopentadienyl)titanium(IV) (1.32 g, 4.56 mmol) was dissolved in 10 mL of toluene was slowly dropped thereonto at 0° C. After agitation was conducted at normal temperature for 12 hours, filtration was conducted, volatile materials were removed, and recrystallization was conducted using a mixed solution of toluene/hexane at −35° C. to produce 1.64 g of an orange-colored solid component.

reactant | 2-phenylphenol | 5.07 mmol, 0.86 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | butyl lithium | 2.5 M, 2.4 mL | C(CCC)[Li]
reactant | (trichloro)(pentamethylcyclopentadienyl)titanium(IV) | 4.56 mmol, 1.32 g | Cl[Ti](C1(C(=C(C(=C1C)C)C)C)C)(Cl)Cl
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (dichloro)(pentamethylcyclopentadienyl)(2-phenylphenoxy)titanium(IV) | 1.64 g, Yield: 85% | Cl[Ti](OC1=C(C=CC=C1)C1=CC=CC=C1)(C1(C(=C(C(=C1C)C)C)C)C)Cl | InChI=1S/C12H10O.C10H15.2ClH.Ti/c13-12-9-5-4-8-11(12)10-6-2-1-3-7-10;1-6-7(2)9(4)10(5)8(6)3;;;/h1-9,13H;1-5H3;2*1H;/q;;;;+3/p-3
